US04227000
Nitroguanidine (9.10 g) was added to a solution of sodium methoxide (from 2.22 g sodium) in methanol (100 ml) and the mixture was heated under reflux for 45 minutes, ethyl 2-formyl-3-(1-naphthyl)propionate (16.05 g) was added and the mixture was heated under reflux for 20 hours and evaporated to dryness. The residue was poured into water and the mixture was extracted with chloroform and the pH of the residual aqueous phase was adjusted to 4 with acetic acid. The solid which precipitated was recrystallised from acetic acid to give 2-nitroamino-5-(1-naphthylmethyl)-4-pyrimidone, m.p. 226°-7°.

reactant | Nitroguanidine | 9.10 g | [N+](=O)([O-])NC(=N)N | CH4N4O2
reactant | sodium methoxide | 2.22 g | C[O-].[Na+]
reactant | ethyl 2-formyl-3-(1-naphthyl)propionate | 16.05 g | C(=O)C(C(=O)OCC)CC1=CC=CC2=CC=CC=C12 | C16H16O3
solvent | methanol | 100 ml | CO | CH4O
product | 2-nitroamino-5-(1-naphthylmethyl)-4-pyrimidone | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC1=CC=CC2=CC=CC=C12 | C15H12N4O3
